US04548904
Into a glass Erlenmeyer flask was placed 5 grams (26.5 millimoles) of 4-nitrobenzylamine hydrochloride suspended in 10 milliliters tertiary butanol and 5 milliliters of water. Concentrated aqueous sodium hydroxide 2.16 milliliters (27 millimoles) was added to the suspension followed by 10 milliliters of dimethyl formamide. Into the resulting dark colored solution having some suspended solids was placed 5.8 grams (26.6 millimoles) di-tertiarybutyldicarbonate dissolved in 10 milliliters of tertiary butanol, drop-wise with stirring over a period of 30 minutes. The reaction was allowed to continue overnight. Considerable solid was deposited. At the completion of the reaction the reaction mixture was diluted with 40 milliliters of water and the crude mixture was extracted with three 50-ml volumes of petroleum ether. The aqueous layer, titrated to pH 2 in the presence of ethyl acetate, was extracted with three 60-milliliter portions of ethyl acetate which were combined and dried with anhydrous magnesium sulfate combined with the petroleum ether layers. The crude product, 4(t-butyloxycarbonylaminomethyl)nitrobenzene, obtained from the combined layers were analyzed by TLC chromatography as described above which showed the product (Rf 0.9; slowly ninhydrin positive) to be about 97% pure. The crude solid was dissolved in 50 milliliters of 90% by volume acetic acid in water in a glass Erlenmeyer flask. 8.6 grams of zinc dust (132.5 millimoles) was added to the vigorously stirred solution. The progress of the reaction was monitored chromatography as discussed. The zinc reduction was complete after about 1 hour at ambient temperatures. The starting material (Rf 0.9, slowly ninhydrin-positive) being replaced by a compound of Rf 0.65, instantly ninhydrin-positive. This is the direction of Rf change expected for the change chemical nature; furthermore, the product showed colored decomposition products on silica gel GF, characteristic of an aniline. Two hours after the reaction began the mixture was diluted with 300 milliliters of water, titrated to pH 6 with aqueous sodium hydroxide in the presence of 200 milliliters of ethyl acetate. The aqueous phase was extracted with three 100 milliliter volumes of ethyl acetate. The combined ethyl acetate layers were dried and solvent was removed with a rotary evaporator under reduced pressure yielding a thick yellow oil. The crude 4-(tertiarybutyloxycarbonyl aminomethyl) aniline was converted to the isothiocyanate following the same procedure described in Example I using 40 milliliters chloroform, 60 milliliters 1 molar aqueous sodium bicarbonate, 2.21 grams (19.2 millimoles) thiophosgene. The reaction yielded 1.73 grams of product. The product was freely soluble in acetonitrile and dichloromethane. Infrared analysis showed the characteristic strong isothiocyanate bands at 2100 cm-1 and the urethane carbonyl at 1690 cm-1.

reactant | 4-nitrobenzylamine hydrochloride | 26.5 millimoles, 5 grams | Cl.[N+](=O)([O-])C1=CC=C(CN)C=C1
reactant | sodium hydroxide | 27 millimoles, 2.16 milliliters | [OH-].[Na+]
reactant | dimethyl formamide | 10 milliliters | CN(C=O)C | C3H7NO
reactant | di-tertiarybutyldicarbonate | 26.6 millimoles, 5.8 grams | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tertiary butanol | 10 milliliters | C(C)(C)(C)O | C4H10O
solvent | water | 5 milliliters | O | H2O
solvent | tertiary butanol | 10 milliliters | C(C)(C)(C)O | C4H10O
solvent | water | 40 milliliters | O | H2O
product | 4(t-butyloxycarbonylaminomethyl)nitrobenzene | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O4
